US06528543B1
A solution of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (160 mg, 0.49 mmol) in toluene (5 mL) was treated with methyl isocyanate (0.12 mL, 1.94 mmol). The reaction mixture was then heated at 100° C. for 16 h. At this time, the reaction was concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 60/40 hexanes/ethyl acetate) afforded 1-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea (79 mg, 42%) as a white foam: [α]23589=−8.9° (c=0.09, chloroform); FAB-HRMS m/e calcd for C17H23ClN2O4S (M+H)+387.1145, found 387.1142.

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 0.49 mmol, 160 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)N)CC1CCCC1 | C15H20ClNO3S
reactant | methyl isocyanate | 1.94 mmol, 0.12 mL | CN=C=O | C2H3NO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea | 79 mg, 42% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC(=O)NC)CC1CCCC1 | C17H23ClN2O4S
